US05508385
To a solution of N-benzyloxycarbonyl-L-pyroglutamyl-L-alanyl-L-argininal dibutylacetal hydrochloride (0.22 g, 0.35 mmol) in acetonitrile (35 ml) was added 1N hydrochloric acid aqueous solution (17.5 ml). The mixture was reacted at 36° C. for 1.5 hour with stirring. After completion of the reaction, pH of the reaction mixture was adjusted to 4.8 with 1N sodium hydroxide aqueous solution. The solvent was distilled off under reduced pressure and chloroform-methanol (20:1) was added to the residue. Insoluble matters were removed by filtration. After the filtrate was concentrated, the residue was recrystallized from chloroform-hexane to give 0.10 g (57%) of N-benzyloxycarbonyl-L-pyroglutamyl-L-alanyl-L-argininal hydrochloride.

reactant | N-benzyloxycarbonyl-L-pyroglutamyl-L-alanyl-L-argininal dibutylacetal hydrochloride | 0.35 mmol, 0.22 g | Cl.C(CCC)OC([C@@H](NC([C@@H](NC([C@H]1N(C(CC1)=O)C(=O)OCC1=CC=CC=C1)=O)C)=O)CCCNC(N)=N)OCCCC
reactant | hydrochloric acid | 1N, 17.5 ml | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | N-benzyloxycarbonyl-L-pyroglutamyl-L-alanyl-L-argininal hydrochloride | 0.10 g, 57% | Cl.C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCNC(N)=N)C=O | InChI=1S/C22H30N6O6.ClH/c1-14(19(31)27-16(12-29)8-5-11-25-21(23)24)26-20(32)17-9-10-18(30)28(17)22(33)34-13-15-6-3-2-4-7-15;/h2-4,6-7,12,14,16-17H,5,8-11,13H2,1H3,(H,26,32)(H,27,31)(H4,23,24,25);1H/t14-,16-,17-;/m0./s1
